US07811595B2
Preparation of 2-{[5-(3-chlorophenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid (21):
To a solution of 2-{[5-(3-chlorophenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester, 20, (0.082 g, 0.24 mmol) in THF (4 mL) is added LiOH (0.024 g, 0.98 mmol) and H2O (1 mL) and the resulting solution stirred for 3 days at room temperature. The solvent is removed under reduced pressure and the pale yellow solid that remains is then acidified with 1M HCl to until the pH is approximately 1 and the solution extracted twice with EtOAc. The combined organic layers are combined, dried (Na2SO4), filtered and concentrated under reduced pressure to afford 0.064 g (81% yield) of the desired compound as a white solid. 1H NMR (250 MHz, DMSO-d6) δ ppm 12.99 (1H, br s), 12.25 (1H, s), 9.05 (1H, s), 8.53 (1H, d, J=2.0 Hz), 7.91 (1H, s), 7.74-7.83 (2H, m), 7.51-7.58 (2H, m), 1.58 (6H, s). HPLC-MS: m/z 335 [M+H]+.

reactant | 2-{[5-(3-chlorophenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=NC=C(C=C1O)C1=CC(=CC=C1)Cl)=O | C17H17ClN2O4
reactant | LiOH | 0.98 mmol, 0.024 g | [Li+].[OH-]
reactant | H2O | 1 mL | O | H2O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 2-{[5-(3-chlorophenyl)-3-hydroxy-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid | 0.064 g, 81% yield | ClC=1C=C(C=CC1)C=1C=C(C(=NC1)C(=O)NC(C(=O)O)(C)C)O | C16H15ClN2O4
